US05010098
Preparation of 3-(p-chlorophenyl)-pyrrole-2-carbonitrile
A mixture of 0.63 g (3.1 mmol) of 3-(p-chlorophenyl)-pyrrole-2-carboxaldehyde in 10 mL of water is stirred and ice-cooled while 0.52 g (4.6 mmol) of hydroxylamine-O-sulfonic acid in 10 mL of water is slowly added. After the addition, the cooling bath is removed and the mixture is heated for 25 minutes. On cooling, the resulting solid is collected and shown, by NMR, to be a mixture of product and starting aldehyde. This mixture is reacted in the same manner with an additional 0.49 g (4.2 mmol) of hydroxylamine-O-sulfonic acid in a total of 30 mL of water. The mixture is heated at 60°-70° C. for 2 hours. The mixture is cooled and the resulting solids are collected and purified by chromatography or silica gel using 1:1 ethyl acetate hexane to give 0.40 g of pink solid, m.p. 114°-115° C.

reactant | 3-(p-chlorophenyl)-pyrrole-2-carboxaldehyde | 3.1 mmol, 0.63 g | ClC1=CC=C(C=C1)C1=C(NC=C1)C=O | C11H8ClNO
reactant | hydroxylamine-O-sulfonic acid | 4.6 mmol, 0.52 g | NOS(=O)(=O)O | H3NO4S
reactant | hydroxylamine-O-sulfonic acid | 4.2 mmol, 0.49 g | NOS(=O)(=O)O | H3NO4S
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 3-(p-chlorophenyl)-pyrrole-2-carbonitrile | 0.40 g | ClC1=CC=C(C=C1)C1=C(NC=C1)C#N | C11H7ClN2
